US08193397B2
A clean, dry, 600 mL, stainless steel, Parr pressure reactor was charged with spray-dried potassium fluoride (8.4 grams, 0.14 mole), anhydrous diglyme (128 grams), and Adogen™ 464 phase transfer catalyst (2.2 grams). The reactor was sealed, cooled with a dry ice-acetone bath, evacuated, and charged with perfluorovaleryl fluoride (130.0 grams, 0.49 mole) and C3F7OCF═CF2 (125.0 grams, 0.47 mole). The reactor was then heated to 85° C. and held for 20 hours with agitation. The reactor was cooled to below 0° C. with a dry ice-acetone bath and vented. The reactor contents were added to a clean, dry 2 L round bottom flask equipped with a mechanical stirrer, a heating mantle, a temperature probe, and a water condenser. The flask was charged with spray-dried potassium fluoride (16.0 grams, 0.28 mole), diethyl sulfate (61.0 grams, 0.40 mole), anhydrous diglyme (48 grams), and catalyst (2.5 grams). The contents of the flask were stirred, heated to 52° C., and held for 20 hours. The flask was cooled to ambient temperature, and water (35 grams) and 45 percent KOH (75 grams, 0.60 mole) were added. The flask was heated to 65° C. and held for 4 hours to neutralize excess diethyl sulfate. The resulting crude product was isolated by steam distillation, washed one time with an equal weight of water, and fractionally distilled to provide 91.0 grams of 99.3 percent purity product C3F7OCF(CF3)CF(OC2H5)C4F9. The boiling point of this product was 178° C., and its structure was confirmed by GCMS. The viscosity of the product was 7.3×10−5 m2/s (73 centistokes) at −50° C. (measured using a Cannon-Fenske viscometer and a Wescan Model 221 viscosity timer).

reactant | potassium fluoride | 0.14 mole, 8.4 grams | [F-].[K+]
reactant | perfluorovaleryl fluoride | 0.49 mole, 130.0 grams | FC(C(=O)F)(C(C(C(F)(F)F)(F)F)(F)F)F | C5F10O
reactant | C3F7OCF═CF2 | 0.47 mole, 125.0 grams | C(F)(F)(C(F)(F)C(F)(F)F)OC(F)=C(F)F | C5F10O
reactant | potassium fluoride | 0.28 mole, 16.0 grams | [F-].[K+]
reactant | diethyl sulfate | 0.40 mole, 61.0 grams | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | KOH | 0.60 mole, 75 grams | [OH-].[K+]
solvent | water | 35 grams | O | H2O
solvent | diglyme | 48 grams | COCCOCCOC | C6H14O3
solvent | diglyme | 128 grams | COCCOCCOC | C6H14O3
product | C3F7OCF(CF3)CF(OC2H5)C4F9 | C(F)(F)(C(F)(F)C(F)(F)F)OC(F)(C(F)(F)F)C(F)(OCC)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C12H5F21O2
